US06329359B1
Preparation of 2,2-dimethoxy-1-phenylpropan-1-one
1.2 g of trimethoxymethane and 8.7 ml of 25% strength by weight ethanolic HCl solution were added to 14.8 g of 1-phenylpropane-1,2-dione dissolved in 27.5 ml of methanol. The reaction mixture was stirred at 20 to 25° C. for 2 hours, and the solvent was then removed by distillation. The residue was taken up in methyl tert-butyl ether (MTBE) and the solution was washed with water. The organic phases were dried and the solvent removed by distillation. 18.2 g of product were obtained as a clear oil.

reactant | trimethoxymethane | 1.2 g | COC(OC)OC | C4H10O3
reactant | HCl | Cl | ClH
reactant | 1-phenylpropane-1,2-dione | 14.8 g | C1(=CC=CC=C1)C(C(C)=O)=O | C9H8O2
reactant | methanol | 27.5 ml | CO | CH4O
product | 2,2-dimethoxy-1-phenylpropan-1-one | 18.2 g | COC(C(=O)C1=CC=CC=C1)(C)OC | C11H14O3
